US07482340B2
Triethylsilane (14 ml) was added slowly into a solution of 2-(4-fluorophenyl)chroman-4,6-diol (2.9 g) in dichloromethane (58 ml). Trifluoroacetic acid (27 ml) was then added dropwise into a reaction mixture and it was stirred at room temperature for 1 hour. The reaction mixture was poured on ice-water and extracted with dichloromethane. The residue was evaporated under reduced pressure with toluene to obtain 2-(4-fluorophenyl)chroman-6-ol. 1H NMR (400 MHz, CDCl3) δ: 7.38 (m, 2H), 7.06 (m, 2H), 6.77 (d, 1H, J 8.6 Hz), 6.61 (dd, 1H, J 8.6, 2.9 Hz) 6.57 (d, 1H, 8.6 Hz), 4.97 (dd, 1H, J 10.2, 2.4 Hz), 2.95 (ddd, 1H, J −16.8, 11.4, 6.2 Hz), 2.74 (ddd, 1H, J −16.8, 5.3, 3.1 Hz), 2.15 (m, 1H), 2.05 (m, 1H).

reactant | Triethylsilane | 14 ml | C(C)[SiH](CC)CC | C6H16Si
reactant | 2-(4-fluorophenyl)chroman-4,6-diol | 2.9 g | FC1=CC=C(C=C1)C1OC2=CC=C(C=C2C(C1)O)O | C15H13FO3
reactant | Trifluoroacetic acid | 27 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 58 ml | ClCCl | CH2Cl2
product | 2-(4-fluorophenyl)chroman-6-ol | FC1=CC=C(C=C1)C1OC2=CC=C(C=C2CC1)O | C15H13FO2
